US05278153
A(1). Methyl 3-iodobenzoate
To a stirred solution of 25 g (100.8 mmol) of 3-iodobenzoic acid in 250 mL of methanol under argon was added 1.2 mL (23.2 mmol) of concentrated H2SO4 and the mixture was heated to reflux for 24 h. The solution was concentrated to 150 mL, gravity filtered to remove any insoluble material, scratched with a glass rod, and allowed to cool slowly. After cooling to RT the flask was allowed to stand in the refrigerator for a few days. The solid was collected and washed with ice cold methanol and dried under high vacuum at RT for 2 days to provide 25.7 g (97%) of a light violet colored solid. mp 40°-41° C.

reactant | 3-iodobenzoic acid | 100.8 mmol, 25 g | IC=1C=C(C(=O)O)C=CC1 | C7H5IO2
reactant | H2SO4 | 23.2 mmol, 1.2 mL | OS(=O)(=O)O | H2O4S
reactant | methanol | 250 mL | CO | CH4O
product | Methyl 3-iodobenzoate | IC=1C=C(C(=O)OC)C=CC1 | C8H7IO2
